US09216972B2
To a stirring solution of oxalyl chloride (1.422 mL, 16.25 mmol) in 40 mL of dichloromethane at −5° C. was added dimethylsulfoxide (1.153 mL, 16.25 mmol) dropwise. After 15 min of stirring, a solution of 2-(4-chlorophenyl)-2-methylpropan-1-ol (1.0 g, 5.42 mmol) in 15 mL of dichloromethane was added dropwise and the resulting mixture was stirred for 30 min at the same temperature. Then triethylamine (3.02 mL, 21.66 mmol) was added and the resulting mixture was stirred for 1 hr at −20° C. with gradual warm-up to room temperature over 2 hrs. The reaction was quenched with water and extracted with ether. The organic layer was separated and washed with brine. It was then dried over anhyd. magnesium sulfate, concentrated and chromatographed using silica gel flash chromatography to yield 2-(4-chlorophenyl)-2-methylpropanal (0.82 g, 4.49 mmol, 83% yield) as a clear oil. 1H NMR (400 MHz, CDCl3) δ ppm 9.48 (1H, s), 7.33-7.39 (2H, m), 7.21 (2H, d, J=8.79 Hz), 1.46 (6H, s).

reactant | oxalyl chloride | 16.25 mmol, 1.422 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 16.25 mmol, 1.153 mL | CS(=O)C | C2H6OS
reactant | 2-(4-chlorophenyl)-2-methylpropan-1-ol | 5.42 mmol, 1.0 g | ClC1=CC=C(C=C1)C(CO)(C)C | C10H13ClO
reactant | triethylamine | 21.66 mmol, 3.02 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-(4-chlorophenyl)-2-methylpropanal | 4.49 mmol, 0.82 g, 83% yield | ClC1=CC=C(C=C1)C(C=O)(C)C | C10H11ClO
